US05273999
Preparation of 5-[[4-(Ethoxycarbonyl)phenyl]carbonyl]-2-hydroxybenzenepropanoic Acid Ethyl Ester
A mixture of 3.6 g (20 mmol) of 4-carboxybenzoic acid methyl ester, 25 mL of toluene and 6 mL of thionyl chloride was heated in an oil bath kept at ca. 90° C. Another 25 mL of toluene was added after 1 hr, an additional 6 mL quantity of thionyl chloride was added after 2.3 hr, and heating was continued for an additional 25 hr. The solvent and excess thionyl chloride were removed in vacuo. To the residue was added 25 mL of toluene and 6 mL of thionyl chloride and the mixture was again heated at 95° C. for 0.5 hr and then at 45° C. for 64 hr and finally at 90° C. for 3 hr. The solvent and excess thionyl chloride were again removed in vacuo. This crude acid chloride was mixed with 4.16 g (20 mmol) of 2-methoxybenzenepropanoic acid ethyl ester and 45 ml of methylene chloride. Aluminum chloride 10.7 g (80 mmol) was added in one portion and the resulting mixture was heated in an oil bath kept at 45° C. for 18 hr and then at 75° C. for 3.5 hr. After being cooled to room temperature, the mixture was poured onto crushed ice and 75 mL of 3N sulfuric acid solution was added. The resulting mixture was worked-up with ether in the usual manner. The residue was dissolved in 200 mL of ethanol. Concentrated sulfuric acid (5 mL) was added and the solution was heated under reflux for 5.8 hr. Most ethanol was removed under aspirator pressure and the residue was worked-up with ethyl acetate as usual. The crude product was purified by flash chromatography on 700 g of silica gel, eluting with 3:1 hexane-ethyl acetate, affording 2.0 g (27.1%) of the title compound as an off-white solid, mp 70°-71° C.

reactant | 4-carboxybenzoic acid methyl ester | 20 mmol, 3.6 g | COC(C1=CC=C(C=C1)C(=O)O)=O | C9H8O4
reactant | thionyl chloride | 6 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 2-methoxybenzenepropanoic acid ethyl ester | 20 mmol, 4.16 g | C(C)OC(CCC1=C(C=CC=C1)OC)=O | C12H16O3
reactant | Aluminum chloride | 80 mmol, 10.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | sulfuric acid | 3N, 75 mL | S(O)(O)(=O)=O | H2O4S
reactant | sulfuric acid | 5 mL | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 200 mL | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
solvent | methylene chloride | 45 ml | C(Cl)Cl | CH2Cl2
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 5-[[4-(Ethoxycarbonyl)phenyl]carbonyl]-2-hydroxybenzenepropanoic Acid Ethyl Ester | 2.0 g, 27.1% | C(C)OC(CCC1=C(C=CC(=C1)C(=O)C1=CC=C(C=C1)C(=O)OCC)O)=O | C21H22O6
